US05817520
5-Chloro-8-benzyloxyquinoline:
10.0 mmol of 5-chloro-8-hydroxyquinoline (ALDRICH) are dissolved, with stirring, in 20 ml of dry DMF, in a 50 ml round-bottomed flask provided with stirring and a thermometer. Then 11 mmol of potassium carbonate and 10% by weight of potassium iodide are added. A solution of 11 mmol of benzyl chloride (JANSSEN) in 5 ml of DMF is added dropwise over 5 minutes, at room temperature and with stirring. After 18 hours of reaction at 50° C., the reaction mixture, supplemented with 100 ml of water is extracted with 4×50 ml of tert-butyl methyl ether. The organic phases are combined, then washed with 3×50 ml of 1N HCl. The aqueous phases are combined, alkalized to pH=9 and extracted with 2×50 ml of ethyl acetate. After drying the organic phase over MgSO4, the solvent is evaporated under reduced pressure. The desired product is obtained after recrystallization from ethanol.

reactant | 5-chloro-8-hydroxyquinoline | 10.0 mmol | ClC1=C2C=CC=NC2=C(C=C1)O | C9H6ClNO
reactant | potassium carbonate | 11 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
reactant | benzyl chloride | 11 mmol | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 5-Chloro-8-benzyloxyquinoline | Yield: 79.5% | ClC1=C2C=CC=NC2=C(C=C1)OCC1=CC=CC=C1 | C16H12ClNO
